US07994185B2
Step A: N-{2-Chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]phenyl}-2,5-difluorobenzenesulfonamide
To a solution of N-{2-chloro-3-[(E)-2-(2-chloro-4-pyrimidinyl)-1-hydroxyethenyl]phenyl}-2,5-difluorobenzenesulfonamide (3.0 g, 6.55 mmol) in DMA (25 mL) was added NBS (1.165 g, 6.55 mmol). After stirring for 1 h at rt, 2,2-dimethylpropanethioamide (0.767 g, 6.55 mmol) was added and the reaction mixture was stirred at 80° C. for 2 h. The reaction mixture was diluted with EtOAc (100 mL) and extracted five times with water. The organic layer was dried over anhydrous NaSO4, adsorbed onto silica gel, and purified via column chromatography, eluting with 0-50% EtOAc/DCM. The desired fractions were combined and concentrated to generate 1.31 g (2.36 mmol, 36.0% yield) of the title compound as a yellow powder. 1H NMR (400 MHz, DMSO-d6): δ 10.74 (s, 1H), 8.56 (d, J=5.4 Hz, 1H), 7.41-7.58 (m, 6H), 6.57 (d, J=5.4 Hz, 1H), 1.42 (s, 9H). MS (ESI): 555.0 [M+H]+.

reactant | N-{2-chloro-3-[(E)-2-(2-chloro-4-pyrimidinyl)-1-hydroxyethenyl]phenyl}-2,5-difluorobenzenesulfonamide | 6.55 mmol, 3.0 g | ClC1=C(C=CC=C1/C(=C\C1=NC(=NC=C1)Cl)/O)NS(=O)(=O)C1=C(C=CC(=C1)F)F | C18H11Cl2F2N3O3S
reactant | NBS | 6.55 mmol, 1.165 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 2,2-dimethylpropanethioamide | 6.55 mmol, 0.767 g | CC(C(N)=S)(C)C | C5H11NS
solvent | DMA | 25 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | N-{2-Chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]phenyl}-2,5-difluorobenzenesulfonamide | 2.36 mmol, 1.31 g, 36.0% yield | ClC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)Cl)C(C)(C)C)NS(=O)(=O)C1=C(C=CC(=C1)F)F | C23H18Cl2F2N4O2S2
